US05519034
A mixture of the hydrochloride salt of 7-benzyloxy-1-[1-(2-chlorophenyl)cyclobutyl]-6-methoxy-1,2,3,4-tetrahydroisoquinoline (2.75 g prepared in a similar manner to that described in Example RB25), methanol (50 ml) and 37-40% aqueous formaldehyde solution (3 ml) was cooled to 10° C. and sodium cyanoborohydride (1.52 g) was added. The mixture was stirred for 24 hours and the solvents removed by evaporation. The residue was partitioned between ethyl acetate and dilute aqueous sodium hydroxide solution. The organic layer yielded a gum which was dissolved in methanol (25 ml) and concentrated hydrochloric acid (25 ml) and heated under reflux for 1 hour. The solvents were removed by evaporation and the residue partitioned between ether and saturated aqueous sodium bicarbonate solution. The ether layer yielded a residue which was dissolved in propan-2-ol (100 ml) and 48% aqueous hydrobromic acid (5 ml). The solvent was removed by evaporation and the residue crystallised and then recrystallised from propan-2-ol to give 1-[1-(2-chlorophenyl)cyclobutyl]-7-hydroxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide, m.p. 148°-150° C.

reactant | 7-benzyloxy-1-[1-(2-chlorophenyl)cyclobutyl]-6-methoxy-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCNC(C2=C1)C1(CCC1)C1=C(C=CC=C1)Cl)OC | C27H28ClNO2
reactant | formaldehyde | 3 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 1.52 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | hydrobromic acid | 5 ml | Br | BrH
solvent | methanol | 25 ml | CO | CH4O
solvent | propan-2-ol | 100 ml | CC(C)O | C3H8O
solvent | methanol | 50 ml | CO | CH4O
product | 1-[1-(2-chlorophenyl)cyclobutyl]-7-hydroxy-6-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.ClC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)O)OC)C | InChI=1S/C21H24ClNO2.BrH/c1-23-11-8-14-12-19(25-2)18(24)13-15(14)20(23)21(9-5-10-21)16-6-3-4-7-17(16)22;/h3-4,6-7,12-13,20,24H,5,8-11H2,1-2H3;1H
